US07910576B2
(E)-3-(5-Methyl-4-{2-oxo-2-[4-(3-trifluoromethyl-phenyl)-piperazin-1-yl]-acetyl}-2-phenyl-1H-pyrrol-3-yl)-acrylic acid
To a solution of 155 mg (0.295 mmol) (E)-3-(5-methyl-4-{2-oxo-2-[4-(3-trifluoromethyl-phenyl)-piperazin-1-yl]-acetyl}-2-phenyl-1H-pyrrol-3-yl)-acrylic acid methyl ester in 2 ml ethanol 12 mg ((0.295 mmol) sodium hydroxide and 0.5 ml water were added. The mixture was stirred for 24 h at RT. The solvent was evaporated and the residue was treated with 1N HCl. The precipitate was filtered off and dried to give 120 mg (80%) of the title compound. MS 512.17 (M+H)+.

reactant | (E)-3-(5-methyl-4-{2-oxo-2-[4-(3-trifluoromethyl-phenyl)-piperazin-1-yl]-acetyl}-2-phenyl-1H-pyrrol-3-yl)-acrylic acid methyl ester | 0.295 mmol, 155 mg | COC(\C=C\C1=C(NC(=C1C(C(N1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F)=O)=O)C)C1=CC=CC=C1)=O | C28H26F3N3O4
reactant | sodium hydroxide | 0.295 mmol | [OH-].[Na+]
reactant | water | 0.5 ml | O | H2O
solvent | ethanol | 2 ml, 12 mg | C(C)O | C2H6O
product | (E)-3-(5-Methyl-4-{2-oxo-2-[4-(3-trifluoromethyl-phenyl)-piperazin-1-yl]-acetyl}-2-phenyl-1H-pyrrol-3-yl)-acrylic acid | 120 mg, 80% | CC1=C(C(=C(N1)C1=CC=CC=C1)/C=C/C(=O)O)C(C(N1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F)=O)=O | C27H24F3N3O4
